US04185009
Preparation of 3,3-bis-(4-hydroxyphenyl)-oxindole
147 g of isatin and 470 g of phenol were brought together and heated to 85° C. Hydrogen chloride gas dried over sulphuric acid is then passed in at 85° C., during which the reaction temperature rises to 115° C. This temperature is maintained and hydrogen chloride is passed in for a further 5 hours. The resulting crystal paste is stirred into 500 ml of benzene and the crystals, colored light yellow, which are thereupon obtained are filtered off and dried. After recrystallization from acetone/chloroform and drying in a water pump vacuum at 90° C., 260 g (82% yield) of colorless crystals are obtained. Melting point 267° C.

reactant | isatin | 147 g | N1C(=O)C(=O)C2=CC=CC=C12 | C8H5NO2
reactant | phenol | 470 g | C1(=CC=CC=C1)O | C6H6O
product | 3,3-bis-(4-hydroxyphenyl)-oxindole | 260 g, 82% yield | OC1=CC=C(C=C1)C1(C(NC2=CC=CC=C12)=O)C1=CC=C(C=C1)O | C20H15NO3
